US07863302B2
N-(5-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-thiophene-2-carbonyl)-methanesulfonamide
A mixture of 5-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-thiophene-2-carboxylic acid (250 mg, 0.5 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride (144 mg, 0.75 mmol), N,N′-dimethylamino pyridine (122 mg, 1.0 mmol) and methanesulfonamide (57 mg, 0.6 mmol) in dichloromethane (20 mL) is stirred at ambient temperature overnight. The reaction mixture is diluted with dichloromethane and washed with 1N HCl. The organic phase is concentrated under reduced pressure and purified by column chromatography (gradient: 0 to 20% EtOAc in hexanes with 0.1% AcOH) to give the title compound (160 mg, 55%). LC-ES/MS m/e 579 (M+1), 100%.

reactant | 5-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-thiophene-2-carboxylic acid | 0.5 mmol, 250 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)C1=CC=C(S1)C(=O)O)C)C(C)C | C25H21Cl2NO4S
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride | 0.75 mmol, 144 mg | Cl.CN(CCCN=C=NCC)C
reactant | methanesulfonamide | 0.6 mmol, 57 mg | CS(=O)(=O)N | CH5NO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(5-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-isoxazol-4-ylmethoxy]-2-methyl-phenyl}-thiophene-2-carbonyl)-methanesulfonamide | 160 mg, 55% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC(=C(C=C1)C1=CC=C(S1)C(=O)NS(=O)(=O)C)C)C(C)C | C26H24Cl2N2O5S2
